US07435837B2
(±)-N-methyl-1-[7-(2,3-dichlorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.039 g, 49%) following the general procedure of Example 390 as a white solid, hydrochloride salt from [7-(2,3-dichlorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.10 g, 0.19 mmol) and methylamine (0.12 g, 3.9 mmol). mp 238-240° C.

reactant | [7-(2,3-dichlorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.19 mmol, 0.10 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C(=CC=C2)Cl)Cl)C(F)(F)F | C23H17Cl2F3O4S
reactant | methylamine | 3.9 mmol, 0.12 g | CN | CH5N
product | (±)-N-methyl-1-[7-(2,3-dichlorophenyl)-5-(trifluoromethyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=C(C=C2C2=C(C(=CC=C2)Cl)Cl)C(F)(F)F | C17H14Cl2F3NO
